US07902367B2
3-[3-[2-[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]ethyl]piperidin-1-yl]benzoic acid
10% Palladium on activated carbon (5 mg) was added to 3-[3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]ethenyl]piperidin-1-yl]benzoic acid (35.0 mg, 0.0797 mmol) in tetrahydrofuran (5 mL). The reaction mixture was stirred at room temperature for hours in a hydrogen atmosphere. Subsequently, the mixture was filtered through Celite and the solvent was evaporated to give 35.1 mg (quant.) of the desired compound as a colorless powder.

reactant | 3-[3-[2-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]ethenyl]piperidin-1-yl]benzoic acid | 0.0797 mmol, 35.0 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C=CC1CN(CCC1)C=1C=C(C(=O)O)C=CC1 | C24H23ClN2O2S
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on activated carbon | 5 mg | [Pd] | Pd
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-[3-[2-[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]ethyl]piperidin-1-yl]benzoic acid | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)CCC1CN(CCC1)C=1C=C(C(=O)O)C=CC1 | C24H25ClN2O2S
